US06884801B1
A DMF solution of 2-nitrobromobenzene (2.02 g), 2-tributylstannylfuran (3.31 mL), and tetrakis(triphenylphosphine)palladium was heated at 97° C. under N2 overnight. The mixture was evaporated to a small volume. The residue was suspended in 40 mL of water. This mixture was extracted with two 50 mL portions of Et2O. The combined extracts were dried and evaporated. This oil was purified by chromatography on silica gel with 10% EtOAc/hexanes to yield 0.51 g (27%) of 2-(2-nitrophenyl)furan. [This compound was reported in Smith et al.; J. Am. Chem. Soc. 1953, 75, 6335.]

reactant | 2-nitrobromobenzene | 2.02 g | [N+](=O)([O-])C1=C(C=CC=C1)Br | C6H4BrNO2
reactant | 2-tributylstannylfuran | 3.31 mL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(2-nitrophenyl)furan | 0.51 g, 27% | [N+](=O)([O-])C1=C(C=CC=C1)C=1OC=CC1 | C10H7NO3
